US04921524
Preparation of 2-butyryl-3-hydroxy-4-(3-acetyl-4-hydroxyphenyl)cyclohex-2-ene-1-one
2-Butyryl-3-hydroxy-4-(4-methoxyphenyl)cyclohex-2-ene-1-one (7.1 g) in dichloroethane (35 ml) was added to a suspension of aluminium chloride (10.5 g) in dichloroethane (50 ml) at 0° C. After stirring for 1/2 hour, a solution of acetyl chloride (2.2 g) in dichloroethane (25 ml) was added dropwise. After stirring a further 1/2 hour at 0° C., the reaction mixture was allowed to come to room temperature and poured into cold 5N hydrochloric acid (50 ml). The aqueous solution was then extracted with dichloromethane. The extracts were dried over magnesium sulphate and evaporated in vacuo to give a red oil. Purification on a silica gel column using 5% (v/v) diethylether-dichloromethane as eluant gave the title compound (1.3 g) as a clear oil.

reactant | 2-Butyryl-3-hydroxy-4-(4-methoxyphenyl)cyclohex-2-ene-1-one | 7.1 g | C(CCC)(=O)C=1C(CCC(C1O)C1=CC=C(C=C1)OC)=O | C17H20O4
reactant | aluminium chloride | 10.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 2.2 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 5N, 50 ml | Cl | ClH
solvent | dichloroethane | 35 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
product | 2-butyryl-3-hydroxy-4-(3-acetyl-4-hydroxyphenyl)cyclohex-2-ene-1-one | 1.3 g | C(CCC)(=O)C=1C(CCC(C1O)C1=CC(=C(C=C1)O)C(C)=O)=O | C18H20O5
